Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a past medical history 
significant
for recurrent sinusitis, bronchiolitis, and inflammatory bowel
disease (terminal ileitis) who was referred by PCP ___
dehydration after presenting to clinic earlier today with 
fevers,
cough, and nasal congestion for 6 days. 

The patient reports first noticing rhinorrhea 6 days ago
(___), and on ___ she had a fever to 100.7F w/ nasal
congestion and stuffy ears. Had some clear nasal drainage.
___, she developed a cough w/ SOB w/ a temp of 99.7. Dry 
cough
initially but then with some yellow mucus that is now improving.
She subsequently presented to her PCP given ongoing sx and
concern for worsening productive cough, SOB, and fever. In her
PCPs office she was noted to be hypoxic and tachycardic to the
130s and was subsequently referred to the ED.

No sinus pain, tenderness, purulent drainage. Some dyspnea but
only after coughing fits. On my encounter pt now feeling overall
improved, though still with some coughing fits.

Review of her last PCP ___ from ___ is
reviewed and summarized as follows:
Of note, issues with chronic MSK and neuropathic pain have been
progressive and are now disabling; was previously working with
the ___ and then attempted lighter duty at work; pt unable
to work and is dependent on family for activities such as
shopping and iADL. Injuries include ___ rotator cuff and
medial epicondyle injury, a ___ meniscus tear in right knee and
degenerative changes. At present homebound and cannot safely 
walk
distances. Difficulty cooking and dressing herself.

In the ED, of note prolonged course, >24h. The patient was noted
to be tachycardic to the 120s and subsequently hypoxic requiring
___ NC O2 though this was weaned off for the last 12h. Her
initial labs were notable for a normal CBC, normal chem-10 w/the
exception of a K+ of 5.9 (on recheck 3.9), trop of <0.01, Flu 
A&B
negative. CXR: No acute cardiopulmonary process. Patient was
given Methylprednisolone 80 mg, Prednisone 60 mg, Azithromycin
500 mg, and 2L LR. She continued to have persistent hypoxia on 
RA
and tachycardia with ambulation. 
Last ED VS: afeb, HR now ___, 153/84, 95% on RA.
 
Past Medical History:
Inflammatory bowel disease
Chronic sinusitis
Recurrent bronchitis 
 
Social History:
___
Family History:
FAMILY HISTORY:  I have reviewed the ___ and found it to be
noncontributory to this admission.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: still moderate tachy around 110, normotensive and O2
maintained on RA
GEN: Alert, oriented to name, place and situation. Mildly
fatigued but appearing but comfortable, no acute signs of
distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  No
appreciable JVP. No ___ edema.
RESP: Good air movement bilaterally, no rhonchi or wheezing. 
Several coughing paroxysms, notably provoked by deep breaths
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: small area of plaque/scaling on right wrist with intact
skin 
Neuro: Cranial nerves ___ grossly intact, muscle strength ___ 
in
all major muscle groups, sensation to light touch intact,
non-focal.  
PSYCH: Appropriate and calm. 

DISCHARGE PHYSICAL EXAM:  
GEN: Alert, NAD
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.    
CV: RRR no m/r/g
RESP: CTAB no c/r/w
ABD: Soft, non-tender, non-distended 
EXTR: wwp minimal edema 
Neuro: grossly intact  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
___ 12:56PM BLOOD WBC-8.6 RBC-4.85 Hgb-14.2 Hct-45.0 MCV-93 
MCH-29.3 MCHC-31.6* RDW-12.9 RDWSD-43.8 Plt ___
___ 05:20AM BLOOD WBC-8.9 RBC-4.49 Hgb-13.4 Hct-40.5 MCV-90 
MCH-29.8 MCHC-33.1 RDW-13.0 RDWSD-43.0 Plt ___
___ 12:56PM BLOOD Glucose-109* UreaN-9 Creat-0.8 Na-137 
K-5.9* Cl-101 HCO3-20* AnGap-16 (hemolyzed)
___ 05:20AM BLOOD Glucose-127* UreaN-12 Creat-0.7 Na-141 
K-4.3 Cl-102 HCO3-25 AnGap-14
___ 12:56PM BLOOD cTropnT-<0.01
___ 05:20AM BLOOD Calcium-9.2 Mg-2.3

CXR - no acute process

 
Brief Hospital Course:
___ female with a past medical history significant for recurrent 
sinusitis, bronchiolitis, and inflammatory bowel disease 
(terminal ileitis) who was referred by PCP ___ dehydration after 
presenting to clinic earlier today with fevers, cough, and nasal 
congestion for 6 days. Course improved with hydration, inhalers, 
steroids, and antibiotics. 

#Respiratory tract infection
#Mild hypoxemia 
Her presentation with URI and lower respiratory tract symptoms, 
dyspnea, and hypoxia suggests viral process triggering 
bronchitis/bronchioloitis. She improved quickly with fluids, 
azithromycin, steroids, and inhalers. She was stable on room air 
and able to walk up and down the halls without significant 
desats by discharge. The possibility of PE was initially 
considered given her tachycardia and hypoxia, but given her 
clinical course this was felt to be extremely unlikely. She was 
discharged with plans to complete 5 day prednisone burst, zpack 
course, and her PRN albuterol script was refilled. No changes 
made to chronic meds.

Follow-up with PCP to be scheduled by patient

Admission initially expected to be longer given concerning 
presenting vitals, but given rapid improvement she was able to 
be discharge sooner. 

>30 minutes in patient care and coordination of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pseudoephedrine 30 mg PO Q6H:PRN nasal congestion 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
3. Mupirocin Ointment 2% 1 Appl TP BID:PRN for skin breaks 
related to psoriasis 
4. Hydrocortisone Cream 2.5% 1 Appl TP BID:PRN psoriasis flares 
5. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN rosacea 
6. ValACYclovir ___ mg PO Q12H:PRN oral herpes flare 
7. Diclofenac Sodium ___ 75 mg PO BID:PRN MSK pain 
8. Pantoprazole 40 mg PO Q24H 
9. DULoxetine 30 mg PO QHS:PRN neuropathy 
10. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN wheeze 

11. Levothyroxine Sodium 100 mcg PO DAILY 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 3 Doses  
2.  PredniSONE 40 mg PO DAILY Duration: 2 Days  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
4.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN wheeze 
 
5.  Diclofenac Sodium ___ 75 mg PO BID:PRN MSK pain  
6.  DULoxetine 30 mg PO QHS:PRN neuropathy  
7.  Hydrocortisone Cream 2.5% 1 Appl TP BID:PRN psoriasis flares 
 
8.  Levothyroxine Sodium 100 mcg PO DAILY  
9.  Mupirocin Ointment 2% 1 Appl TP BID:PRN for skin breaks 
related to psoriasis  
10.  Pantoprazole 40 mg PO Q24H  
11.  Pseudoephedrine 30 mg PO Q6H:PRN nasal congestion  
12.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN 
rosacea  
13.  ValACYclovir ___ mg PO Q12H:PRN oral herpes flare  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Respiratory tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a respiratory infection. 
Your symptoms improved after receiving inhalers, steroids, and 
antibiotics. You can continue prednisone for 2 more days and 
azithromycin for 3 more days. Please contact your primary care 
doctor for ___ follow-up visit or if you have any worsening 
symptoms. 
 
Followup Instructions:
___